US08026237B2
A mixture of ethyl 5-bromo-1,4-dimethyl-1H-pyrrole-3-carboxylate (246 mg, 1.0 mmol), 4-fluorophenyl-boronic acid (210 mg, 1.5 mmol), Na2CO3 (320 mg, 3.0 mmol) and Pd(PPh3)4 (116 mg, 0.10 mmol) in DMF/H2O (10:1, 10 mL) was sparged with nitrogen for 10 min. The reaction vial was sealed and heated at 110° C. with stirring. After 18h, the reaction mixture was diluted with DCM and then filtered. The filtrate was concentrated under reduced pressure and then purified by column chromatography, eluting with EtOAc-Hex (0:100 to 50:50), to give 1,4-dimethyl-5-(4-fluorophenyl)-1H-pyrrole-3-carboxylic acid ethyl ester (252 mg, 96%) as a pale yellow solid. 1H-NMR (CDCl3): δ 7.30 (1H, s), 7.26-7.20 (2H, m), 7.15-7.10 (2H, m), 4.28 (2H, q), 3.48 (3H, s), 2.20 (3H, s), 1.36 (3H, t). MS (ESI): 262 (MH+).

reactant | ethyl 5-bromo-1,4-dimethyl-1H-pyrrole-3-carboxylate | 1.0 mmol, 246 mg | BrC1=C(C(=CN1C)C(=O)OCC)C | C9H12BrNO2
reactant | 4-fluorophenyl-boronic acid | 1.5 mmol, 210 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 3.0 mmol, 320 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF H2O | 10 mL | CN(C)C=O.O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.10 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,4-dimethyl-5-(4-fluorophenyl)-1H-pyrrole-3-carboxylic acid ethyl ester | 252 mg, 96% | C(C)OC(=O)C1=CN(C(=C1C)C1=CC=C(C=C1)F)C | C15H16FNO2
